US07786129B2
3-{4-[4-(2,3-Dihydrobenzo[1,4]dioxin-5-yl)-piperazin-1-yl]-butyl}-3-ethyl-1,3-dihydro-2H-indol-2-one
The title compound is prepared according to process H by applying processing method 1 starting from 3-(4-chlorobutyl)-3-ethyl-1,3-dihydro-2H-indol-2-one and 4-(2,3-dihydrobenzo[1,4]dioxin-5-yl)-piperazine.

reactant | 3-(4-chlorobutyl)-3-ethyl-1,3-dihydro-2H-indol-2-one | ClCCCCC1(C(NC2=CC=CC=C12)=O)CC | C14H18ClNO
reactant | 4-(2,3-dihydrobenzo[1,4]dioxin-5-yl)-piperazine | O1CCOC2=C1C=CC=C2N2CCNCC2 | C12H16N2O2
product | 3-{4-[4-(2,3-Dihydrobenzo[1,4]dioxin-5-yl)-piperazin-1-yl]-butyl}-3-ethyl-1,3-dihydro-2H-indol-2-one | O1CCOC2=C1C=CC=C2N2CCN(CC2)CCCCC2(C(NC1=CC=CC=C21)=O)CC | C26H33N3O3
